US06821967B2
b. 9-[4-(4-quinazolin-2-yl-[1.4]diazepan-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 2-[1.4]diazepan-1-yl-quinazoline

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 2-[1.4]diazepan-1-yl-quinazoline | N1(CCNCCC1)C1=NC2=CC=CC=C2C=N1 | C13H16N4
product | 9-[4-(4-quinazolin-2-yl-[1.4]diazepan-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CCC1)C1=NC2=CC=CC=C2C=N1)(F)F | C33H34F3N5O
